US04343942
1-Hydroxybenzimidazole-3-Oxide
To a mixture containing nitromethane (7.4 g., 0.12 moles), benzofuroxan (13.6 g., 0.10 moles) and tetrahydrofuran (50 ml.) is slowly added dimethylpyrimidine (11.3 g.) dropwise. The heat of reaction causes the reaction temperature to rise sharply; therefore, an ice-bath is used to maintain a steady rate of reflux. Upon completion of addition, the resulting mixture is allowed to cool to room temperature whereupon the solid product which precipitates is filtered, washed with water, dried and recrystallized from a MeOH/NaOCH3 mixture which is subsequently acidified. The crystalline product has an M.P. 213° C. dec.

reactant | nitromethane | 0.12 moles, 7.4 g | [N+](=O)([O-])C | CH3NO2
reactant | benzofuroxan | 0.10 moles, 13.6 g | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | dimethylpyrimidine | 11.3 g | CC1=CC(=NC=N1)C | C6H8N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-Hydroxybenzimidazole-3-Oxide | ON1C=[N+](C2=C1C=CC=C2)[O-] | C7H6N2O2
